US07317021B2
(i.e. 6-[2-[6-(4-dimethylamino-phenyl)3H-imidazo[4,5-b]pyridin-2-yl]ethyl]-4-methyl-pyridin-2-ylamine hydrochloride)
40 mg of 6-{2-[6-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-4-methyl-pyridin-2-ylamine are dissolved in 8.0 ml of dichloromethane. After cooling the solution to 0° C., 53 μl of hydrochloride in diethyl ether (strength 2.0 M) is added under stirring. Subsequently, the solvents are evaporated in vacuo. The remaining residue is re-dissolved in 4 ml of dioxane containing 0.8 ml each of water and acetonitrile. The solution is lyophilized to yield 43 mg of the title compound. M.p. 142° C. (decomp.) TSP-MS: 373.3 (MH+). TLC: Rf=0.40 (dichloromethane/methanol 8:1).

reactant | 6-{2-[6-(4-dimethylamino-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-ethyl}-4-methyl-pyridin-2-ylamine | 40 mg | CN(C1=CC=C(C=C1)C=1C=C2C(=NC1)NC(=N2)CCC2=CC(=CC(=N2)N)C)C | C22H24N6
reactant | hydrochloride | 53 μl | Cl | ClH
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 2.0 M | C(C)OCC | C4H10O
product | 6-[2-[6-(4-dimethylamino-phenyl)3H-imidazo[4,5-b]pyridin-2-yl]ethyl]-4-methyl-pyridin-2-ylamine hydrochloride | 43 mg | Cl.CN(C1=CC=C(C=C1)C=1C=C2C(=NC1)NC(=N2)CCC2=CC(=CC(=N2)N)C)C | InChI=1S/C22H24N6.ClH/c1-14-10-17(25-20(23)11-14)6-9-21-26-19-12-16(13-24-22(19)27-21)15-4-7-18(8-5-15)28(2)3;/h4-5,7-8,10-13H,6,9H2,1-3H3,(H2,23,25)(H,24,26,27);1H
